### PR TITLE
feat: add bv-concat-extract normalization simprocs

### PR DESCRIPTION
**Pull request by bollu**
This PR adds simprocs to simplify appends of non-overlapping Bitvector adds. We add a simproc instead of just a `simp` lemma to ensure that we correctly rewrite bitvector appends. Since bitvector appends lead to computation at the bitvector width level, it seems to be more stable to write a simproc.

As I write this, I realize that I can maybe write the `simp` lemma using `no_index` to recover the same behaviour, so I'll try that too.

### CODE REVIEW

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/Simproc.lean [hunk 1]
```diff
@@ -501,5 +501,64 @@ builtin_simproc [bv_normalize] extract_mul
...
   return .visit { expr := expr, proof? := some proof }
 
+/-!
+Lemmas about add-of-append are written using simp lemmas.
+This ensures that we correctly unify with `++`, even when the result type of the append
+has been reduced.
+If registered directly as a `simp` lemma, it would fail to unify against
+`(x : BitVec 3) ++ (y : BitVec 4)` with the result type `BitVec 7`.
+Simp would expect the resulting type to be `BitVec (3 + 4)`.
+-/
```
Comment (bollu) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/Simproc.lean:511]: I'm a bit surprised that my `simp` jiggling doesn't seem to work:

```lean
theorem foo {x : BitVec v} {y : BitVec w} : (x ++ 0#w) + (0#v ++ y) = x ++ y := by
  rw [@BitVec.append_add_append_eq_append]

/-
@HAdd.hAdd
  (BitVec (@HAdd.hAdd Nat Nat Nat _ _ _))
  (BitVec (@HAdd.hAdd Nat Nat Nat _ _ _))
  (BitVec (@HAdd.hAdd Nat Nat Nat _ _ _))
  _
  (@HAppend.hAppend (BitVec _) (BitVec _) (BitVec (@HAdd.hAdd Nat Nat Nat _ _ _)) _ _ (BitVec.ofNat _ 0))
  (@HAppend.hAppend (BitVec _) (BitVec _) (BitVec (@HAdd.hAdd Nat Nat Nat _ _ _)) _ (BitVec.ofNat _ 0) _)
-/
#discr_tree_simp_key foo

-- NORM_BV_ADD_CONCAT
example {x : BitVec 8} {y : BitVec 3} : (x ++ 0#3) + (0#8 ++ y) = x ++ y := by
  simp only [Nat.reduceAdd]  --  BitVec (8 + 3) -> BitVec 11
  simp only [foo] -- simp made no progress
```

I believe `simp` does not bother to unify up to `defeq` of `3 + 8` with `11`,
and that's what we need for this to work reliably. So, I wrote this up as a `simproc`. Suggestions welcome.

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/Simproc.lean [hunk 2]
```diff
@@ -501,5 +501,64 @@ builtin_simproc [bv_normalize] extract_mul
...
+      vExpr
+      wExpr
+      lhsExpr
+      rhsExpr
+  return .visit { expr := expr, proof? := some proof }
+
+builtin_simproc [bv_normalize] append_add_append_eq_append'
+    ((HAppend.hAppend (α := BitVec (no_index _)) (β := BitVec (no_index _)) (γ := BitVec (no_index _)) _ _) +
+     (HAppend.hAppend (α := BitVec (no_index _)) (β := BitVec (no_index _)) (γ := BitVec (no_index _)) _ _))
+      := fun e => do
```
Comment (bollu) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/Simproc.lean:540]: I chose to perform code duplication here, because the two cases are different enough that I felt the code would be messier by unifying it into a single subroutine.

File: tests/lean/run/bv_decide_rewriter.lean [hunk 3]
```diff
@@ -656,6 +659,13 @@ example {x y : BitVec 8} :
     BitVec.extractLsb' 0 4 (x * y) = BitVec.extractLsb' 0 4 x * BitVec.extractLsb' 0 4 y := by
   bv_normalize
 
+-- BV_ADD_SHL
+example {x y : BitVec 8} : x + (y <<< x) = x ||| (y <<< x) := by bv_normalize
```
[the remark this answers is not in the document]
Comment (bollu) [reply tests/lean/run/bv_decide_rewriter.lean:663]: I added another `simp` lemma.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -1783,6 +1783,11 @@ theorem append_add_append_eq_append {v w : Nat} {x : BitVec v} {y : BitVec w} :
     (x ++ 0#w) + (0#v ++ y) = x ++ y := by
   rw [add_eq_or_of_and_eq_zero] <;> ext i <;> simp
 
+/-- Adding bitvectors that are zero in complementary positions equals concatenation. -/
+theorem append_add_append_eq_append' {v w : Nat} {x : BitVec v} {y : BitVec w} :
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply src/Init/Data/BitVec/Bitblast.lean:1789]: I would name this pair of theorems `append_zero_add_zero_append` and `zero_append_add_append_zero`, respectively. You could suffix them with `_eq` or even `_eq_append`, but given the names are already quite long and specific I don't think that's necessary

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -1780,7 +1780,16 @@ theorem extractLsb'_mul {w len} {x y : BitVec w} (hlen : len ≤ w) :
 
 /-- Adding bitvectors that are zero in complementary positions equals concatenation. -/
 theorem append_add_append_eq_append {v w : Nat} {x : BitVec v} {y : BitVec w} :
-    (x ++ 0#w) + (0#v ++ y) = x ++ y := by
+    (HAppend.hAppend (α := BitVec (no_index _)) (β := BitVec (no_index _)) (γ := BitVec (no_index _)) x 0#w) + 
+    (HAppend.hAppend (α := BitVec (no_index _)) (β := BitVec (no_index _)) (γ := BitVec (no_index _)) 0#v y)
+    = x ++ y := by
+  rw [add_eq_or_of_and_eq_zero] <;> ext i <;> simp
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:1786]: This is not actually introducing mulitple goals anywhere, right? So the following ought to work
```suggestion
  rw [add_eq_or_of_and_eq_zero]; ext i; simp
```

Idem for the second proof

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -1780,7 +1780,16 @@ theorem extractLsb'_mul {w len} {x y : BitVec w} (hlen : len ≤ w) :
 
 /-- Adding bitvectors that are zero in complementary positions equals concatenation. -/
 theorem append_add_append_eq_append {v w : Nat} {x : BitVec v} {y : BitVec w} :
-    (x ++ 0#w) + (0#v ++ y) = x ++ y := by
+    (HAppend.hAppend (α := BitVec (no_index _)) (β := BitVec (no_index _)) (γ := BitVec (no_index _)) x 0#w) + 
+    (HAppend.hAppend (α := BitVec (no_index _)) (β := BitVec (no_index _)) (γ := BitVec (no_index _)) 0#v y)
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:1784]: IIUC, there's no need to `no_index` the input types.
```suggestion
    (HAppend.hAppend (γ := BitVec (no_index _)) x 0#w) + 
    (HAppend.hAppend (γ := BitVec (no_index _)) 0#v y)
```

It might be good to add a comment explaining why `no_index` is needed, and primarily, why there is no need to `no_index` the occurrences of these types in `HAdd.hAdd`

File: src/Init/Data/BitVec/Bitblast.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Done.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 6 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Done!

**Review by hargoniX — APPROVED** [review]

File: src/Init/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -1778,9 +1778,23 @@ theorem extractLsb'_mul {w len} {x y : BitVec w} (hlen : len ≤ w) :
...
+  rw [add_eq_or_of_and_eq_zero] <;> ext i <;> simp
+
 /-- Adding bitvectors that are zero in complementary positions equals concatenation. -/
-theorem append_add_append_eq_append {v w : Nat} {x : BitVec v} {y : BitVec w} :
-    (x ++ 0#w) + (0#v ++ y) = x ++ y := by
+theorem zero_append_add_append_zero {v w : Nat} {x : BitVec v} {y : BitVec w} :
+  (HAppend.hAppend (γ := BitVec (no_index _)) 0#v y) +
+  (HAppend.hAppend (γ := BitVec (no_index _)) x 0#w)
+  = x ++ y := by
   rw [add_eq_or_of_and_eq_zero] <;> ext i <;> simp
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:1798]: You need one more level of indentation here!
